US04460579
(R)-Dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester is heated in trimethylsilylethanol in the presence of titanium (IV) ethoxide. Upon completion of the reaction, the reaction mixture is diluted with ether, washed with 1N hydrochloric acid, water, saturated aqueous sodium bicarbonate, and brine, dried (MgSO4), and concentrated in vacuo. The residue is purified chromatographically on silica gel to yield (R)-dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, trimethylsilylethyl ester.

reactant | (R)-Dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, ethyl ester | C1(C=2C(C(N1C1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC)=O)=O)=CC=CC2)=O | C22H20N2O5S
reactant | trimethylsilylethanol | C[Si](C)(C)C(C)O | C5H14OSi
solvent | ether | CCOCC | C4H10O
catalyst | titanium (IV) ethoxide | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | (R)-dihydro-5-phthalimido-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, trimethylsilylethyl ester | C1(C=2C(C(N1C1C(N([C@H](SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O)=O)=CC=CC2)=O | C25H28N2O5SSi
